US04950677
60 mg of intramolecularly deprotonized 4-methoxy 3-methyl-2-[[(2-methylpropenyl)thio]methyl]-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium cation were dissolved in methylene chloride, whereupon 0.5 ml of 4.7N methanolic hydrochloric acid was added thereto, the solution was concentrated and the residue was crystallized from ethyl acetate/ether. The 4-methoxy-3-methyl-2-[[(2-methylpropenyl)thio]methyl]-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride obtained exhibited a melting point of 142°-144°.

reactant | 4-methoxy 3-methyl-2-[[(2-methylpropenyl)thio]methyl]-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium | COC1=C(C(=[N+](C=C1)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)CSC=C(C)C)C
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 4.7N, 0.5 ml | Cl | ClH
product | 4-methoxy-3-methyl-2-[[(2-methylpropenyl)thio]methyl]-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride | [Cl-].COC1=C(C(=[N+](C=C1)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)CSC=C(C)C)C | InChI=1S/C20H21F3N3OS.ClH/c1-12(2)10-28-11-17-13(3)18(27-4)7-8-26(17)19-24-15-6-5-14(20(21,22)23)9-16(15)25-19;/h5-10H,11H2,1-4H3,(H,24,25);1H/q+1;/p-1
